US05807883
Under ice cooling, a hydrochloric acid gas was passed through a stirred solution of 6.79 g of ethyl 3-[3-(2-t-butoxycarbonyl-1,2,3,4-tetrahydro-3-isoquinolinyl)-carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]-propionate in ethyl acetate (75 ml) until the gas was saturated. The mixture was stirred at 0° C. for 2.5 hours. After removal of solvent, the residue was triturated in isopropyl ether to afford 6.05 g of ethyl 3-[2,3-dihydro-2-oxo-1-pentyl-3-(1,2,3,4-tetrahydro-3-isoquinolinyl)-carbonylamino-1H-indol-3-yl]propionate hydrochloride as a pale yellow amorphous solid. IR (Nujol) (cm-1): 3180, 1725, 1690, 1610, FAB-MS (m/z): 478 (MH+), 132 (base).

reactant | hydrochloric acid | Cl | ClH
reactant | ethyl 3-[3-(2-t-butoxycarbonyl-1,2,3,4-tetrahydro-3-isoquinolinyl)-carbonylamino-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]-propionate | 6.79 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C1(C(N(C2=CC=CC(=C12)N=C=O)CCCCC)=O)CCC(=O)OCC | C33H41N3O6
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[2,3-dihydro-2-oxo-1-pentyl-3-(1,2,3,4-tetrahydro-3-isoquinolinyl)-carbonylamino-1H-indol-3-yl]propionate hydrochloride | 6.05 g | Cl.O=C1N(C2=CC=CC(=C2C1(C1NCC2=CC=CC=C2C1)CCC(=O)OCC)N=C=O)CCCCC | InChI=1S/C28H33N3O4.ClH/c1-3-5-8-16-31-23-13-9-12-22(30-19-32)26(23)28(27(31)34,15-14-25(33)35-4-2)24-17-20-10-6-7-11-21(20)18-29-24;/h6-7,9-13,24,29H,3-5,8,14-18H2,1-2H3;1H
